US05149699
Ethyl 3-(4-Chloro-2,6-dimethylpyrimidin-5-yl)propionate
A mixture of ethyl 3-(2,6-dimethyl-3H-pyrimidin-4-on-5-yl)propionate (3.87 g, 0.017 mol), phosphorus oxychloride (40 mL), and N,N-dimethylaniline (10 drops) was heated under reflux for 2 h. The mixture was concentrated, cooled, and ice water was added. Solid KOH was added to bring the pH to 6 and the mixture was extracted with ether. The extracts were dried (MgSO4) and concentrated to give 2.95 g (72%) of product as a brown oil.

reactant | ethyl 3-(2,6-dimethyl-3H-pyrimidin-4-on-5-yl)propionate | 0.017 mol, 3.87 g | CC1=NC(=C(C(N1)=O)CCC(=O)OCC)C | C11H16N2O3
reactant | phosphorus oxychloride | 40 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | N,N-dimethylaniline | 10 drops | CN(C1=CC=CC=C1)C | C8H11N
product | Ethyl 3-(4-Chloro-2,6-dimethylpyrimidin-5-yl)propionate | 2.95 g, 72% | ClC1=NC(=NC(=C1CCC(=O)OCC)C)C | C11H15ClN2O2
